US07776869B2
Step 1: Preparation of N-(4-iodo-3-methylphenyl)-3-(trifluoromethyl)benzamide
To a solution of 4-iodo-3-methyl aniline (200 mg, 0.86 mmol) and iPr2NEt (0.19 mL, 0.95 mmol) in CH2Cl2 (10 mL) was added 3-(trifluoromethyl)benzoyl chloride (0.133 mL, 0.90 mmol). The mixture was allowed to stir at room temperature for 0.5 h at which time it was diluted with CH2Cl2 (20 mL). The organic layer was washed with aq. HCl (10 mL, 1 M), 9% aq. Na2CO3 (10 mL), brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting oil was used without further purification.

reactant | 4-iodo-3-methyl aniline | 0.86 mmol, 200 mg | IC1=C(C=C(N)C=C1)C | C7H8IN
reactant | iPr2NEt | 0.95 mmol, 0.19 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.90 mmol, 0.133 mL | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(4-iodo-3-methylphenyl)-3-(trifluoromethyl)benzamide | IC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C | C15H11F3INO
